US06518265B1
tert-Butyl 4-[2-(4-methyl-2-phenyl-1H-imidazo[4,5-c]quinolin-1-yl)ethyl]-1-piperidinecarboxylate
A solution of 0.65 g of tert-butyl 4-[2-[(3-amino-2-methylquinolin-4-yl)amino]-ethyl]-1-piperidinecarboxylate, 0.29 g of benzaldehyde and 0.08 g of 2,3-dichloro-5,6-dicyano-1,4-benzoquinone in 5 ml of tetrahydrofuran was stirred at room temperature for 3 days. The reaction mixture was added with saturated aqueous sodium hydrogencarbonate solution and extracted with ethyl acetate. The extract was washed successively with saturated aqueous sodium hydrogencarbonate solution and saturated brine, and dried, and the solvent was evaporated to give a reddish brown liquid. The resulting liquid was purified by silica gel column chromatography using ethyl acetate—n-heptane (1:1) as an eluting solvent, and washed with diisopropyl ether to give 0.55 g of a colorless solid. Recrystallization from diisopropyl ether gave colorless crystals having the melting point of from 146 to 146.5° C.

reactant | tert-butyl 4-[2-[(3-amino-2-methylquinolin-4-yl)amino]-ethyl]-1-piperidinecarboxylate | 0.65 g | NC=1C(=NC2=CC=CC=C2C1NCCC1CCN(CC1)C(=O)OC(C)(C)C)C | C22H32N4O2
reactant | benzaldehyde | 0.29 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | 0.08 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | tert-Butyl 4-[2-(4-methyl-2-phenyl-1H-imidazo[4,5-c]quinolin-1-yl)ethyl]-1-piperidinecarboxylate | 0.55 g | CC1=NC=2C=CC=CC2C2=C1N=C(N2CCC2CCN(CC2)C(=O)OC(C)(C)C)C2=CC=CC=C2 | C29H34N4O2
